US07034052B2
To a solution of (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (500 mg, 1.1 mmol) in acetonitrile (5 mL) was added cyclopropanecarbonyl chloride (0.15 mL, 1.7 mmol) at room temperature and kept for 24 hrs. The solution was extracted with ethyl acetate (50 mL) and sodium hydrogen carbonate (50 mL, sat). The organic layer was dried over MgSO4. Filtration and removal of solvent gave (1R)-cyclopropanecarboxylic acid {2-[2-cyclopropanecarbonyloxycarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide (380 mg, 66% yield): mp, 130–132° C.; 1H NMR (DMSO-d6) δ 0.81–1.01 (2 ms, 8H, 4CH2), 1.31 (t, J=7 Hz, 3H, CH3), 1.70–1.80 (m, 1H, CH), 2.97–3.05 (m, 2H, CH2), 3.73 (s, 3H, CH3), 3.97–4.04 (m, 2H, CH2), 4.17 (d, J=18 Hz, 1H, NCHH), 4.59 (d, J=18 Hz, 1H, NCHH), 5.66 (t, J=8 Hz, 1H, NCh), 6.87–6.94 (m, 3H, Ar), 7.18 (d, J=8 Hz, 1H, Ar), 7.49 (d, J=8 Hz, 1H, Ar), 8.23 (d, J=8 Hz, 1H, Ar), 10.54 (s, 1H NH), 12.00 (s, 1H, NH); 13C NMR (DMSO-d6) δ 7.77, 8.92, 10.28, 14.69, 15.46, 34.61, 46.60, 51.11, 55.48, 63.80, 111.94, 112.11, 116.81, 117.31, 117.49, 119.27, 131.22, 132.77, 136.96, 142.25, 147.94, 148.57, 166.59, 168.85, 171.72, 172.41; Anal Calcd for C28H31N3O7+0.7 H2O: C, 62.96; H, 6.11; N, 7.87. Found: C, 62.64; H, 5.89; N, 7.78.

reactant | (1R)-cyclopropanecarboxylic acid {2-[1-(3-ethoxy-4-methoxy-phenyl)-2-hydroxycarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 1.1 mmol, 500 mg | C(C)OC=1C=C(C=CC1OC)[C@@H](CC(NO)=O)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C24H27N3O6
reactant | cyclopropanecarbonyl chloride | 1.7 mmol, 0.15 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (1R)-cyclopropanecarboxylic acid {2-[2-cyclopropanecarbonyloxycarbamoyl-1-(3-ethoxy-4-methoxy-phenyl)-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 380 mg, 66% yield | C1(CC1)C(=O)ONC(=O)C[C@H](C1=CC(=C(C=C1)OC)OCC)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1 | C28H31N3O7
